US08252793B2
tert-Butyl-3(5-methylcarbamoyl-pyridin-2-yl)propionate (0.29 g, 1.10 mmol) was dissolved in 10 mL of a 4 N hydrogen chloride solution in dioxane and stirred overnight. Evaporation of the solvent gave 0.27 mg of 3(5-methylcarbamoyl-pyridin-2-yl)propionic acid hydrochloride. LCMS 209 (M+1)

reactant | tert-Butyl-3(5-methylcarbamoyl-pyridin-2-yl)propionate | 1.10 mmol, 0.29 g | C(C)(C)(C)OC(CCC1=NC=C(C=C1)C(NC)=O)=O | C14H20N2O3
reactant | hydrogen chloride | 4 N | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 3(5-methylcarbamoyl-pyridin-2-yl)propionic acid hydrochloride | 0.27 mg | Cl.CNC(=O)C=1C=CC(=NC1)CCC(=O)O | InChI=1S/C10H12N2O3.ClH/c1-11-10(15)7-2-3-8(12-6-7)4-5-9(13)14;/h2-3,6H,4-5H2,1H3,(H,11,15)(H,13,14);1H
